US09422281B2
A 200 mL round bottom flask fitted with a nitrogen inlet, stir bar, and condenser was charged with (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (4.4 g, 16.35 mmol), 2-methyltetrahydrofuran (93 mL), potassium acetate (4.01 g, 40.9 mmol), and bis(pinacolato)diboron (4.57 g, 17.98 mmol). Nitrogen was bubble through the mixture for 30 min and then [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.134 g, 0.163 mmol) was added. The reaction mixture was heated to 80° C. for 24 h, and then additional bis(pinacolato)diboron (2.29 g, 8.99 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.134 g, 0.163 mmol) were added. The mixture was heated at 80° C. for 30 h, and then the mixture was cooled to rt and diluted with 2-methyltetrahydrofuran (90 mL). The organic layer was separated and washed with water (50 mL) and brine (50 mL). The combined organic layers were concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient elution with 20-33% ethyl acetate-dichloromethane) to yield a solid which was further purified by crystallizing from 4:1 hexanes-ethyl acetate to afford (S)-1-(2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (3.45 g, 67%) as an off-white solid. MS (ESI, pos. ion) m/z 317 [M+1]+.

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 16.35 mmol, 4.4 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | potassium acetate | 40.9 mmol, 4.01 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 17.98 mmol, 4.57 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | bis(pinacolato)diboron | 8.99 mmol, 2.29 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 2-methyltetrahydrofuran | 90 mL | CC1OCCC1 | C5H10O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.163 mmol, 0.134 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.163 mmol, 0.134 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | 2-methyltetrahydrofuran | 93 mL | CC1OCCC1 | C5H10O
product | (S)-1-(2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 3.45 g, 67% | C[C@@H]1N(C2=CC=C(C=C2NC1)B1OC(C(O1)(C)C)(C)C)C(C)=O | C17H25BN2O3
